US04119710
1-(4'-Amino-3'-cyano-5'-fluoro-phenyl)-2-cyclobutylamino-ethanol,
m.p. of the hydrochloride: 222°-224° C. (decomp.), was prepared from 4'-amino-3'-cyano-2-cyclobutylamino-5'-fluoroacetophenone analogous to Example 49.

reactant | hydrochloride | Cl | ClH
reactant | 4'-amino-3'-cyano-2-cyclobutylamino-5'-fluoroacetophenone | NC1=C(C=C(C=C1F)C(CNC1CCC1)=O)C#N | C13H14FN3O
product | 1-(4'-Amino-3'-cyano-5'-fluoro-phenyl)-2-cyclobutylamino-ethanol | NC1=C(C=C(C=C1F)C(CNC1CCC1)O)C#N | C13H16FN3O
